US08980913B2
Step 13: 4-(((R)-2-Hydroxy-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethyl)-amino)butyl 1-(4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)-phenoxy)methyl)benzoyl)piperidine-4-carboxylate (Compound 1)
To a suspension of (R)-5-(2-amino-1-hydroxyethyl)-8-hydroxyquinolin-2(1H)-one hydrochloride (0.136 g, 0.53 mmol) in methanol (3.5 mL) was added triethylamine (0.148 mL, 1.06 mmol). The mixture was stirred for 10 minutes and then a solution of 4-oxobutyl 1-(4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)-phenoxy)methyl)benzoyl)piperidine-4-carboxylate (0.337 g, 0.50 mmol) in methanol (3.4 mL) was added. The mixture was stirred at RT for 1 hour. Sodium triacetoxyborohydride (0.267 g, 1.26 mmol) followed by acetic acid (0.121 mL, 2.12 mmol) was added and the reaction continued for a further 18 hours. The reaction mixture was quenched with water and evaporated at reduced pressure. The residue dissolved in iso-butanol and washed with water. The organic phase was evaporated at reduced pressure and the crude material was purified by reverse phase preparative HPLC to afford the title compound (0.072 g, 16%).

reactant | (R)-5-(2-amino-1-hydroxyethyl)-8-hydroxyquinolin-2(1H)-one hydrochloride | 0.53 mmol, 0.136 g | Cl.NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O
reactant | triethylamine | 1.06 mmol, 0.148 mL | C(C)N(CC)CC | C6H15N
reactant | 4-oxobutyl 1-(4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)-phenoxy)methyl)benzoyl)piperidine-4-carboxylate | 0.50 mmol, 0.337 g | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)N3CCC(CC3)C(=O)OCCCC=O)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C39H45N3O7
reactant | Sodium triacetoxyborohydride | 1.26 mmol, 0.267 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 2.12 mmol, 0.121 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 3.5 mL | CO | CH4O
solvent | methanol | 3.4 mL | CO | CH4O
product | 4-(((R)-2-Hydroxy-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethyl)-amino)butyl 1-(4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)-phenoxy)methyl)benzoyl)piperidine-4-carboxylate | 0.072 g, 16% | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)N3CCC(CC3)C(=O)OCCCCNC[C@@H](C3=C4C=CC(NC4=C(C=C3)O)=O)O)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C50H57N5O9
